US04396617
Preparation of 2-(4-cyclohexylphenyl)imino-hexahydropyrimidine
A solution of 2.6 g of N-dichloromethylene 4-cyclohexylaniline in 40 ml of acetonitrile is added dropwise to a solution of 1 ml of 1,3-diaminopropane in 20 ml of acetonitrile in 15 minutes at room temperature. After the addition of 1 ml of triethylamine, the solution is stirred for 1 hour at room temperature, after which the reaction mixture is filtered while warm. After distilling off the solvent the residue is taken up in ether and successively washed with 2 N sodium hydroxide solution and water. The ether layer is dried and evaporated, after which the residue is recrystallised from acetonitrile. The resulting 2-(4-cyclohexylphenyl)imino-hexahydropyrimidine has a melting point of 180°-182° C.

reactant | N-dichloromethylene 4-cyclohexylaniline | 2.6 g | ClC(=NC1=CC=C(C=C1)C1CCCCC1)Cl | C13H15Cl2N
reactant | 1,3-diaminopropane | 1 ml | NCCCN | C3H10N2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(4-cyclohexylphenyl)imino-hexahydropyrimidine | C1(CCCCC1)C1=CC=C(C=C1)N=C1NCCCN1 | C16H23N3
